US08404709B2
4-Formyl-3-methoxybenzonitrile
79 g (370 mmol) of sodium metaperiodate are added in portions to a vigorously stirred solution of 48 g (185 mmol) of tert-butyl (2E)-3-(4-cyano-2-methoxyphenyl)acrylate, 207 mg (0.81 mmol) of osmium tetroxide and 1.4 g (6.14 mmol) of benzyltriethylammonium chloride in 750 ml of water/THF (2:1), keeping the reaction temperature below 30° C. The solution is stirred at RT for a further 1 h. Water (2000 ml) is added and the mixture is then filtered. The remaining solid is dissolved in ethyl acetate, and the solution is washed with saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue is stirred with petroleum ether. 21.18 g (71% of theory) of the title compound are obtained as a white solid.

reactant | sodium metaperiodate | 370 mmol, 79 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | tert-butyl (2E)-3-(4-cyano-2-methoxyphenyl)acrylate | 185 mmol, 48 g | C(#N)C1=CC(=C(C=C1)/C=C/C(=O)OC(C)(C)C)OC | C15H17NO3
reactant | Water | 2000 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 6.14 mmol, 1.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water THF | 750 ml | O.C1CCOC1
catalyst | osmium tetroxide | 0.81 mmol, 207 mg | [Os](=O)(=O)(=O)=O
product | 4-Formyl-3-methoxybenzonitrile | C(=O)C1=C(C=C(C#N)C=C1)OC | C9H7NO2
